US07276518B2
10.0 g 4-dimethylamino-4-phenyl-cyclohexanone were dissolved in 160 ml analytical grade tetrahydrofuran, and 2.72 g n-propylamine followed by 5.97 ml glacial acetic acid were added, while stirring in an ice-bath. 13.6 g sodium triacetoxyborohydride were then added in portions in the course of 15 minutes and the mixture was subsequently stirred for approx. 65 hours. For working up, 85 ml two molar sodium hydroxide solution were added dropwise (pH>10) and the mixture was extracted three times with 100 ml diethyl ether each time. The combined organic phases were then washed twice with 100 ml water each time, dried over sodium sulfate and filtered and the filtrate was concentrated. 5.00 g of the crude product obtained (9.79 g) were chromatographed over silica gel with diethyl ether, to which one percent by volume of aqueous ammonia solution (25 wt. %) was added, and an addition of methanol increasing from one to forty per cent by volume. 2.79 g of the nonpolar and 1.33 g of the polar diastereoisomer of N,N-dimethyl-1-phenyl-N′-propyl-cyclohexane-1,4-diamine were obtained. From a sample of 356 mg of the nonpolar diastereoisomer, 253 mg of the corresponding hydrochloride were obtained as described for example 1 with water and chlorotrimethylsilane in 2-butanone.

reactant | 4-dimethylamino-4-phenyl-cyclohexanone | 10.0 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | n-propylamine | 2.72 g | C(CC)N | C3H9N
reactant | sodium triacetoxyborohydride | 13.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | two molar, 85 ml | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | 5.97 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-1-phenyl-N′-propyl-cyclohexane-1,4-diamine | CN(C1(CCC(CC1)NCCC)C1=CC=CC=C1)C | C17H28N2
